US07566773B2
10 mmol of 3-acetyl-trifluoroacetylaminobenzene as a starting material was slowly added dropwise to 20 mL of concentrated H2SO4 at −20° C. and the reaction mixture was stirred 30 minutes. Then, nitric acid was slowly added dropwise thereto over 10 minutes. The reaction mixture was continuously stirred for 2 hours. When the reaction was completed, ice water was poured into the reaction mixture. The reaction mixture was extracted twice with 50 mL of ethyl acetate. The organic layer was washed with a solution of sodium hydrogen carbonate and dried over anhydrous sodium sulfate. The ethyl acetate was then distilled off under reduced pressure to give an impure product. The impure produce was added to concentrated NH4OH and stirred at 50° C. for 1 hour. The reaction mixture was evaporated on a rotary evaporator and extracted with EtOAc and water, and purified by silica gel column chromatography (hexane/EtOAc=3/1) to obtain the desired 3-acetyl-4-nitro-aminobenzene as a brown solid (54%).

reactant | 3-acetyl-trifluoroacetylaminobenzene | 10 mmol | C(C)(=O)C=1C=C(C=CC1)NC(C(F)(F)F)=O | C10H8F3NO2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | NH4OH | [NH4+].[OH-]
solvent | H2SO4 | 20 mL | OS(=O)(=O)O | H2O4S
product | 3-acetyl-4-nitro-aminobenzene | 54% | C(C)(=O)C=1C=C(C=CC1[N+](=O)[O-])N | C8H8N2O3
